US05175157
2-[2-(N-(3-(3,5-Dimethoxy-phenoxy)-propyl)-piperid-2-yl)-ethyl]-6,7-dimethoxy-1-oxo-1,2,3,4-tetrahydro-isoquinoline-hydrochloride
Prepared from 2-[2-(piperid-2-yl)-ethyl]-6,7-dimethoxy-1-oxo- 1,2,3,4-tetrahydro-isoquinoline and 1-chloro-3-(3,5-dimethoxy-phenoxy)-propane analogously to Example 1.

reactant | 2-[2-(piperid-2-yl)-ethyl]-6,7-dimethoxy-1-oxo- 1,2,3,4-tetrahydro-isoquinoline | N1C(CCCC1)CCN1C(C2=CC(=C(C=C2CC1)OC)OC)=O | C18H26N2O3
reactant | 1-chloro-3-(3,5-dimethoxy-phenoxy)-propane | ClCCCOC1=CC(=CC(=C1)OC)OC | C11H15ClO3
product | 2-[2-(N-(3-(3,5-Dimethoxy-phenoxy)-propyl)-piperid-2-yl)-ethyl]-6,7-dimethoxy-1-oxo-1,2,3,4-tetrahydro-isoquinoline-hydrochloride | Cl.COC=1C=C(OCCCN2C(CCCC2)CCN2C(C3=CC(=C(C=C3CC2)OC)OC)=O)C=C(C1)OC | InChI=1S/C29H40N2O6.ClH/c1-33-23-17-24(34-2)19-25(18-23)37-15-7-12-30-11-6-5-8-22(30)10-14-31-13-9-21-16-27(35-3)28(36-4)20-26(21)29(31)32;/h16-20,22H,5-15H2,1-4H3;1H
